US07524840B2
A solution of 1.00 g (0.0263 mole) of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one (Id) in 85 mL of 1,2-dichloroethane was stirred overnight with 1.053 g (0.0079 mole) of aluminum trichloride. An additional 1.00 g of aluminum trichloride was added, and the mixture stirred overnight, after which time the mixture was poured into ice water. The mixture was extracted with dichloromethane-methanol, and the organic layer washed twice with water and then dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure to provide 0.700 g of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one (Ipp) (MH+/Z=465), which was of sufficient purity to be used in the next step.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.0263 mole, 1.00 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OC | C16H12BrClN2O2
reactant | aluminum trichloride | 0.0079 mole, 1.053 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | aluminum trichloride | 1.00 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,2-dichloroethane | 85 mL | ClCCCl | C2H4Cl2
product | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one | 0.700 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)O | C15H10BrClN2O2
